US06858651B2
To a stirred, ice-cooled solution of 1.37 g (4.8 mmol) of trans-[4-(4-Hydroxy-butyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester and 0.95 ml NEt3 in 15 ml CH2Cl2 was added 0.5 ml (6.8 mmol) methanesulfonyl chloride. After stirring at RT for 2 h, the reaction mixture was partitioned between Et2O, 1M HCl and water. The ether-layer was concentrated in vacuo to give 1.745 g of clean trans-Methanesulfonic acid 4-[4-(tert-butoxycarbonyl-methyl-amino)-cyclohexyl]-butyl ester, that was treated in 5 ml CH2Cl2 with 5 ml of trifluoro acetic acid. After stirring the solution for 30 min at RT, the solution was evaporated under reduced pressure to dryness to give 2.25 g (quant.) trans-Methanesulfonic acid 4-(4-methylamino-cyclohexyl)-butyl ester.trifluoro-acetic acid.

reactant | trans-[4-(4-Hydroxy-butyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 4.8 mmol, 1.37 g | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCO)=O | C16H31NO3
reactant | NEt3 | 0.95 ml | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.8 mmol, 0.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | trans-Methanesulfonic acid 4-[4-(tert-butoxycarbonyl-methyl-amino)-cyclohexyl]-butyl ester | 1.745 g | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)CCCCOS(=O)(=O)C)C | C17H33NO5S
